US08076486B2
To a solution of 2-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}hydrazine carbothioamide (220 mg; 0.51 mmol) in DMF (5.00 mL) were added resin bound triphenylphosphine (401 mg; 1.53 mmol), carbon tetrabromide tetrabromomethane (508 mg; 1.53 mmol), and triethyl amine (180 mg; 1.53 mmol). The mixture was heated at 50° C. for 5 h. Filtered and purified on Agilent Prep. HPLC system to get 10 mg of [4-(5-Amino-[1,3,4]thiadiazol-2-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine. MS m/z: 414 M+1

reactant | 2-{3-[(2-fluoro-4-iodophenyl)amino]isonicotinoyl}hydrazine carbothioamide | 0.51 mmol, 220 mg | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NNC(N)=S)C=CN=C1 | C13H11FIN5OS
reactant | triphenylphosphine | 1.53 mmol, 401 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide tetrabromomethane | 1.53 mmol, 508 mg | BrC(Br)(Br)Br.C(Br)(Br)(Br)Br | 2CBr4
reactant | triethyl amine | 1.53 mmol, 180 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
product | [4-(5-Amino-[1,3,4]thiadiazol-2-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine | 10 mg | NC1=NN=C(S1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F | C13H9FIN5S
